US05958942
3,4-Dihydro-3-[5-(trifluoromethanesulfonamido)pentan-1-yl]-1,3,7b-triazacyclopent[cd]inden-4-one
To a solution of 18 mg (0.052 mmol) of 3,4-dihydro-3-[5-(tert-butoxycarbonylamino)pentan-1-yl]-1,3,7b-triazacyclopent[cd]inden-4-one in 1 ml of methanol was added 1 ml of conc.HCl, and the mixture was stirred for 15 minutes at room temperature. The solvent was distilled off. To the residue was added toluene. The solvent was further distilled off. To the residue were added 3 ml of acetonitrile, 0.2 ml (1.43 mmol) of triethylamine and 100 mg (0.28 mmol) of N-phenyltrifluoromethanesulfonimide. The mixture was stirred for 14 hours at room temperature. The solvent was distilled off. To the residue was added chloroform, washed with water, and dried over anhydrous magnesium sulfate. The solvent was distilled off, and the residue was purified by column chromatography (eluent: ethyl acetate/ethanol=10:1) to afford 13 mg (66.0%, a colorless solid) of the desired compound.

reactant | 3,4-dihydro-3-[5-(tert-butoxycarbonylamino)pentan-1-yl]-1,3,7b-triazacyclopent[cd]inden-4-one | 0.052 mmol, 18 mg | C(C)(C)(C)OC(=O)NCCCCCN1C(C=2N3C1=CN=C3C=CC2)=O | C18H24N4O3
reactant | HCl | Cl | ClH
reactant | triethylamine | 1.43 mmol, 0.2 ml | C(C)N(CC)CC | C6H15N
reactant | N-phenyltrifluoromethanesulfonimide | 0.28 mmol, 100 mg | C1=CC=C(C=C1)N(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C8H5F6NO4S2
solvent | methanol | 1 ml | CO | CH4O
solvent | acetonitrile | 3 ml | C(C)#N | C2H3N
product | 3,4-Dihydro-3-[5-(trifluoromethanesulfonamido)pentan-1-yl]-1,3,7b-triazacyclopent[cd]inden-4-one | FC(S(=O)(=O)NCCCCCN1C(C=2N3C1=CN=C3C=CC2)=O)(F)F | C14H15F3N4O3S
